US08404722B2
Preparation of 2-(N-benzyl-4-nitrobenzamido)-2-phenylacetic acid (1d):
to a room temperature solution of methyl 2-(N-benzyl-4-nitrobenzamido)-2-phenylacetate (7.63 g, 18.9 mmol) dissolved in 40 mL methanol and 30 mL THF was added a solution of lithium hydroxide monohydrate (1.95 g, 46.5 mmol) dissolved in 15 mL water. The solution turned dark brown and gradually turned light orange over 15 minutes. After 30 minutes the solvent was removed under reduced pressure and the concentrate was diluted with 50 mL water and extracted with 2×50 mL dichloromethane. The organic extracts were combined and washed with 50 mL brine then stirred over magnesium sulfate, filtered and the filtrate concentrated under reduced pressure to afford a colorless foamy solid (7.30 g, 99%). ESI− m/z=779.2 [2M−H]−.

reactant | methyl 2-(N-benzyl-4-nitrobenzamido)-2-phenylacetate | 18.9 mmol, 7.63 g | C(C1=CC=CC=C1)N(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C(C(=O)OC)C1=CC=CC=C1 | C23H20N2O5
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | lithium hydroxide monohydrate | 46.5 mmol, 1.95 g | O.[OH-].[Li+]
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | 2-(N-benzyl-4-nitrobenzamido)-2-phenylacetic acid | 7.30 g, 99% | C(C1=CC=CC=C1)N(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C(C(=O)O)C1=CC=CC=C1 | C22H18N2O5
